US04151357
(E,Z,E) and (E,E,E)-7-benzylcarbamoyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol
660 mg of (E,Z,E) and (E,E,E)-7-carboxy-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol was dissolved in 10 ml of dichloromethane. The solution was cooled to 0° C., 440 mg of dicyclohexylcarbodiimide was added and the mixture was stirred for 1 hour. Then, 0.5 ml of benzylamine was added and stirring was continued for 1 hour. The reaction mixture was left at room temperature overnight and water was added followed by extraction with ethyl ether. The oily substance derived from the extract was purified by a thin-layer chromatography to afford 315 mg of the end product.

reactant | (E,E,E)-7-carboxy-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol | C(=O)(O)/C(=C/CC/C(=C/CO)/C)/CC\C=C(\CCC=C(C)C)/C | C20H32O3
reactant | dicyclohexylcarbodiimide | 440 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | benzylamine | 0.5 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E,E,E)-7-benzylcarbamoyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol | 315 mg | C(C1=CC=CC=C1)NC(=O)/C(=C/CC/C(=C/CO)/C)/CC\C=C(\CCC=C(C)C)/C | C27H39NO2
